US06762330B2
In the drybox, 110 mg (0.609 mmol) of (Me3C)2P—Cl, 67 mg (0.299 mmol) of Pd(OAc)2 and 3.0 mL of CH2Cl2 were loaded into a reactor (10 mL) equipped with a magnetic stir bar. The resulting mixture was stirred at room temperature for 4 h before 60 mg (3.3 mmol) of H2O was added. The mixture above was stirred at room temperature for 12 h. After removal of solvent and excess H2O, the residue was dissolved in 15.0 mL of 1,4-dioxane, and transferred into a reactor (100 mL). Next, 2-chloroanisole (1.43 g, 10.0 mm), C6H5B(OH)2 (1.83 g, 15.0 mm) and CsF (4.56 mg, 30.0 mmol) were added into the mixture above. After the mixture was refluxed for 42 h, the reaction mixture was then cooled to room temperature, quenched with 50 mL of H2O, and extracted with 300 mL of diethyl ether. The organic extracts were washed with H2O (2×50 mL), brine (50 mL), and dried over mgSO4, filtered, and the ether and dioxane removed from the filtrate by rotary evaporation. The resulting residue was chromatographed on silicon gel using hexane as eluant. The eluate was concentrated by rotary evaporation followed by high vacuum to give 1.81 g (98% yield) of 2-phenylanisole. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ7.85 (d, J=7.05 Hz, 2H), 7.67 (m, 2H), 7.60 (m, 3H), 7.32 (m, 1H), 7.22 (m, 1H), 4.01 (s, 3H) ppm. 13C NMR (125 MHz, CDCl3): δ156.4, 138.5, 130.7, 130.6, 129.4, 128.5, 127.8, 126.7, 120.7, 111.2, 55.3 ppm. HRMS Calcd for C13H12O: 185.0966. Found 185.0965. Anal. Calcd for C13H12O: C, 84.75; H, 6.57; O, 8.68. Found: C, 84.62; H, 6.65; O, 8.58.

reactant | H2O | 3.3 mmol, 60 mg | O | H2O
reactant | 2-chloroanisole | 1.43 g | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | C6H5B(OH)2 | 1.83 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | CsF | 30.0 mmol, 4.56 mg | [F-].[Cs+]
catalyst | Pd(OAc)2 | 0.299 mmol, 67 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | (Me3C)2P—Cl | 0.609 mmol, 110 mg | P(C(C)(C)C)(C(C)(C)C)Cl | C8H18ClP
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 2-phenylanisole | 1.81 g, 98% yield | C1(=CC=CC=C1)C1=C(C=CC=C1)OC | C13H12O
